* Copyright © Linear Technology Corp. 2011.  All rights reserved.
*
.subckt LT3020-1.2 1 2 3 4 5 6 7
Q1 N003 N007 N002 0 PE temp=27
R15 N003 1 1m
A2 4 N008 4 N011 4 4 N005 4 AND Tau=1u
A1 5 4 4 4 4 4 N011 4 SCHMITT Vt=.8 Vh=1m trise=1u
A3 7 4 4 4 4 4 N008 4 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 4 N012 N013 4 4 4 N007 4 OTA Vhigh=11 G=2 Iout=1.2m Ref=-.2
G1 4 N012 N009 4 10µ
C2 N012 4 10p Rser=5K Rpar=100K
C3 N009 4 1p Rpar=1G
C4 N007 4 65n Rser=50
D1 5 4 BIA
C5 7 4 1p Rpar=1G
A5 N006 4 N013 N013 N013 N013 4 N013 VARISTOR
D2 4 N006 F
G2 4 N006 1 N003 20
G3 4 N006 N002 4 table(1.7 6.3m 10 7.2m)
R1 N013 N005 10Meg
G4 N002 4 N005 4 120µ
D3 N002 4 BIA
S1 4 1 N009 4 OV
A6 4 N002 N007 N007 N007 N007 4 N007 VARISTOR table(.5 0 10.5 10)
R2 1 N009 100K
R3 N009 4 20K
D4 7 N002 STUB
.model PE PNP(Rb=100 BF=155 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=16m oneway)
.model STUB D(Ron=10m Roff=.1G)
.ends LT3020-1.2
*
.subckt LT3020-1.5 1 2 3 4 5 6 7
Q1 N003 N007 N002 0 PE temp=27
R15 N003 1 1m
A2 4 N008 4 N011 4 4 N005 4 AND Tau=1u
A1 5 4 4 4 4 4 N011 4 SCHMITT Vt=.8 Vh=1m trise=1u
A3 7 4 4 4 4 4 N008 4 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 4 N012 N013 4 4 4 N007 4 OTA Vhigh=11 G=2 Iout=1.2m Ref=-.2
G1 4 N012 N009 4 10µ
C2 N012 4 10p Rser=5K Rpar=100K
C3 N009 4 1p Rpar=1G
C4 N007 4 65n Rser=50
D1 5 4 BIA
C5 7 4 1p Rpar=1G
A5 N006 4 N013 N013 N013 N013 4 N013 VARISTOR
D2 4 N006 F
G2 4 N006 1 N003 20
G3 4 N006 N002 4 table(1.7 6.3m 10 7.2m)
R1 N013 N005 10Meg
G4 N002 4 N005 4 120µ
D3 N002 4 BIA
S1 4 1 N009 4 OV
A6 4 N002 N007 N007 N007 N007 4 N007 VARISTOR table(.5 0 10.5 10)
R2 1 N009 130K
R3 N009 4 20K
D4 7 N002 STUB
.model PE PNP(Rb=100 BF=155 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=16m oneway)
.model STUB D(Ron=10m Roff=.1G)
.ends LT3020-1.5
*
.subckt LT3020-1.8 1 2 3 4 5 6 7
Q1 N003 N007 N002 0 PE temp=27
R15 N003 1 1m
A2 4 N008 4 N011 4 4 N005 4 AND Tau=1u
A1 5 4 4 4 4 4 N011 4 SCHMITT Vt=.8 Vh=1m trise=1u
A3 7 4 4 4 4 4 N008 4 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 4 N012 N013 4 4 4 N007 4 OTA Vhigh=11 G=2 Iout=1.2m Ref=-.2
G1 4 N012 N009 4 10µ
C2 N012 4 10p Rser=5K Rpar=100K
C3 N009 4 1p Rpar=1G
C4 N007 4 65n Rser=50
D1 5 4 BIA
C5 7 4 1p Rpar=1G
A5 N006 4 N013 N013 N013 N013 4 N013 VARISTOR
D2 4 N006 F
G2 4 N006 1 N003 20
G3 4 N006 N002 4 table(1.7 6.3m 10 7.2m)
R1 N013 N005 10Meg
G4 N002 4 N005 4 120µ
D3 N002 4 BIA
S1 4 1 N009 4 OV
A6 4 N002 N007 N007 N007 N007 4 N007 VARISTOR table(.5 0 10.5 10)
R2 1 N009 160K
R3 N009 4 20K
D4 7 N002 sTUB
.model PE PNP(Rb=100 BF=155 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=16m oneway)
.model STUB D(Ron=10m Roff=.1G)
.ends LT3020-1.8
*
.subckt LT3020 1 2 3 4 5 6 7
Q1 N003 N007 N002 0 PE temp=27
R15 N003 1 1m
A2 4 N008 4 N010 4 4 N005 4 AND Tau=1u
A1 5 4 4 4 4 4 N010 4 SCHMITT Vt=.8 Vh=1m trise=1u
A3 7 4 4 4 4 4 N008 4 SCHMITT Vt=.92 Vh=1m Trise=1u
A4 4 N011 N013 4 4 4 N007 4 OTA Vhigh=11 G=2 Iout=1.2m Ref=-.2
G1 4 N011 3 4 10µ
C2 N011 4 10p Rser=5K Rpar=100K
C3 3 4 1p Rpar=1G
C4 N007 4 65n Rser=50
D1 5 4 BIA
C5 7 4 1p Rpar=1G
A5 N006 4 N013 N013 N013 N013 4 N013 VARISTOR
D2 4 N006 F
G2 4 N006 1 N003 20
G3 4 N006 N002 4 table(1.7 6.3m 10 7.2m)
R1 N013 N005 10Meg
G4 N002 4 N005 4 120µ
D3 N002 4 BIA
S1 4 1 3 4 OV
A6 4 N002 N007 N007 N007 N007 4 N007 VARISTOR table(.5 0 10.5 10)
D4 7 N002 STUB
.model PE PNP(Rb=100 BF=155 Cjc=1n Cje=1n VAF=3)
.model BIA D(Ron=100 Roff=1G Ilimit=3u)
.model F D(Ron=1m Roff=10K Vrev=30)
.model OV SW(Ron=1 Roff=1G Vt=.21 Vh=-5m level=2 ilimit=16m oneway)
.model STUB D(Ron=10m Roff=.1G)
.ends LT3020
